US06291511B1
Step C: 4-Bromobenzoxazole.
Following a literature procedure (Org. Prep. & Proc. Int. 22(5), 613 (1990)), a solution of 2-amino-3-bromophenol (800 mg, 4.25 mmol) and trimethylformate (0.685 mL, 6.25 mmol) in methanol (1.25 mL) was treated with concentrated hydrochloric acid (0.01 mL). The flask was fitted with a short path distillation apparatus. The temperature of the solution was slowly raised to 90° C. and maintained until the methanol had finished distilling. Upon cooling, the residue crystallized and was dissolved in diethyl ether (70 mL). This solution was successively washed with 5% sodium hydroxide solution and water and dried over anhydrous magnesium sulfate. After filtering, the solvents were removed by rotoevaporation and the residue was purified by flash column chromatography on silica gel eluted with 20% ethyl acetate in hexanes to yield the title compound (550 mg, 65% yield).

reactant | 2-amino-3-bromophenol | 4.25 mmol, 800 mg | NC1=C(C=CC=C1Br)O | C6H6BrNO
reactant | hydrochloric acid | 0.01 mL | Cl | ClH
reactant | methanol | 1.25 mL | CO | CH4O
product | 4-Bromobenzoxazole | 550 mg, 65% yield | BrC1=CC=CC2=C1N=CO2 | C7H4BrNO
